US04623721
Recently, L-fructose was prepared by aldol condensation. See S. Morgenlie, Carbohydr. Res., 107 (1982) 137-141. DL-Glyceraldehyde condensed with 1,3-dihydroxy-2-propanone catalyzed by Dowex 1 (OH-) resin to give a hexulose mixture. Crystallization of the mixture from methanol yielded 54% of DL-fructose. Treatment of the DL-fructose mixture with baker's yeast gave a product from which 62% of 2,3:4,5-di-O-isopropylidene-β-L-fructopyranose was isolated after acetonation. When L-glyceraldehyde was used as starting material, 2,3:4,5-di-O-isopropylidene-β-L-fructopyranose was isolated in 60-65% yield after acetonation of the hexulose mixture.

reactant | DL-Glyceraldehyde | C(C(C=O)O)O | C3H6O3
reactant | 1,3-dihydroxy-2-propanone | OCC(CO)=O | C3H6O3
product | L-fructose | OCC(=O)[C@H](O)[C@@H](O)[C@@H](O)CO | C6H12O6
